* C:\Users\djsce.student\MATLAB\Projects\RIA_PSY\exp6b.asc
V1 N003 0 5V
R1 N003 Va 10k
R2 N003 Vb 10k
R3 Va 0 200
R4 N005 0 10k
R5 Vb N005 100
R6 N001 Va 10k
R7 N004 Vb 10k
XU1 N004 N001 Vp Vm N002 LT1001
R8 N002 N001 10k
R9 N004 0 10k
V2 Vp 0 5
V3 0 Vm 5
;op
* Saiprasad Patil 60001200090
.tran 0 1 0
.lib LTC.lib
.backanno
.end
